US06965048B2
To 158 mg (0.5 mmol) of trans-N-(3-hydroxy-propyl)-N-methyl-3-(4-methylamino-cyclohexyloxy)-propionamide-hydrochloride in 3 mL of CH2Cl2 were added 0.43 mL (2.6 mmol, 5 eq) of N,N-diisopropylethylamine followed by 0.08 mL (0.56 mmol, 1.1 eq) of 4-chlorophenyl chloroformate. The mixture was stirred at RT for 1 h, and the solution was added to a mixture of NaHCO3 solution and CH2Cl2. The phases were separated and the inorganic phase was extracted with CH2Cl2. The organic phase was washed with 1M KHSO4. The combined organic phases were washed with brine, dried over Na2SO4 and evaporated. Column chromatography on silica gel with a gradient of CH2Cl2:MeOH 98:2 to 95:5 yielded 105 mg (48%) of trans-(4-{2-[(3-hydroxy-propyl)-methyl-carbamoyl]-ethoxy}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester as colorless oil, MS: 427 (MH+,1Cl).

reactant | trans-N-(3-hydroxy-propyl)-N-methyl-3-(4-methylamino-cyclohexyloxy)-propionamide-hydrochloride | 0.5 mmol, 158 mg | Cl.OCCCN(C(CCO[C@@H]1CC[C@H](CC1)NC)=O)C
reactant | N,N-diisopropylethylamine | 2.6 mmol, 0.43 mL, 5 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chlorophenyl chloroformate | 0.56 mmol, 0.08 mL, 1.1 eq | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | trans-(4-{2-[(3-hydroxy-propyl)-methyl-carbamoyl]-ethoxy}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | 105 mg, 48% | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)OCCC(N(C)CCCO)=O)=O | C21H31ClN2O5
